US07547691B2
(D). Preparation of 4-{3-[4-(4-carboxy-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester di-hydrochloride
Aqueous LiOH solution (2.5 N, 2.0 mL) is added to a stirred solution of 4-{3-[4-(4-methoxycarbonyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester (700 mg, 1.49 mmol) in THF (7 mL)/MeOH (4 mL), the resultant mixture is stirred at 40° C. for 4 hours. At 40° C., 5 N HCl (2.1 mL) is added in one shot to the reaction mixture. Within 2 minutes the mixture becomes a suspension. After filtration and drying, the title compound is obtained as a yellow solid (950 mg, 99% yield).

reactant | LiOH | 2.5 N, 2.0 mL | [Li+].[OH-]
reactant | 4-{3-[4-(4-methoxycarbonyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | 1.49 mmol, 700 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCNC1=NC=CC(=N1)C1=CC2=C(S1)C=CC=C2C(=O)OC | C26H33N5O4S
reactant | MeOH | 4 mL | CO | CH4O
reactant | HCl | 5 N, 2.1 mL | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 4-{3-[4-(4-carboxy-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester di-hydrochloride | Cl.Cl.C(C)(C)(C)OC(=O)N1CCN(CC1)CCCNC1=NC=CC(=N1)C1=CC2=C(S1)C=CC=C2C(=O)O | InChI=1S/C25H31N5O4S.2ClH/c1-25(2,3)34-24(33)30-14-12-29(13-15-30)11-5-9-26-23-27-10-8-19(28-23)21-16-18-17(22(31)32)6-4-7-20(18)35-21;;/h4,6-8,10,16H,5,9,11-15H2,1-3H3,(H,31,32)(H,26,27,28);2*1H
